Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elevated Creatinine 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
is a ___ woman with a history of ETOH abuse, hypotension likely 
___ autonomic instability, and recent ATN requiring temporary HD 
who was admitted from OSH for elevated Cr. 

In ___ clinic on ___ for a colposcopy for an abnormal Pap 
smear, she was noted to be hypotensive at that time. She had 
labs drawn and was later called and instructed to present to the 
ED for Cr 4.0. She notes increased frequency and volume of 
urination but denies dysuria or hematuria. She endorses nausea, 
bilateral lower abdominal pain and stabbing left flank pain when 
she needs to have a bowel movement, none of which are new. She 
denies fevers, chills, vomiting, diarrhea, dysuria, hematuria. 
Of note, she was requiring dialysis for ATN earlier this year. 
She is not sure of the time course but believes this ended in 
___ or ___. 

In the ED, her course was notable for initial BP 86/51, Cr 3.9, 
bicarb 18, Lactate 3.0 -> ___ s/p 3L boluses IVF. Her blood 
pressure improved to ___ s/p IVF. UA with few bacteria, trace 
leuk. Her CT Abd/Pelv without contrast ___ showed no 
abnormalities to explain the patient's abdominal pain, including 
no e/o colitis. The appendix is not definitively visualized but 
there is no secondary signs of appendicitis and no free fluid. 
  
She had hospital stay in ___ for sepsis (likely abdominal 
source) and klebsiella bacteremia treated with cipro, initially 
requiring levophed in the MICU. Also had hospitalization ___ 
for hypotension and anemia of largely unknown origin (flex sig 
only showed minor bleeding). Fluid resuscitated and developed 
volume overload, ___ with Cr trend 3.3 -> 1.8 with fluids. 
Required CRRT for volume overload for 1 month ___ in ___. 
Now off CRRT. 
  
This morning she endorses her usual bilateral lower abdominal 
pain and nausea. She does not feel shaky or have symptoms that 
concern her for ETOH withdrawal. CIWA is 1 for nausea. She 
denies fevers, chills, chest pain, dyspnea. 

Social History: She reports she drinks a half pint per day, last 
drink on ___ at 6pm. She denies a history of DTs, withdrawal 
seizures, or hospitalizations for withdrawal. 
 
Past Medical History:
___'S ENCEPHELOPATHY
ASTHMA  
TOBACCO DEPENDENCE  
ALCOHOL DEPENDENCE  
HYPOTHYROIDISM  
HYPERTENSION  
S/P BARIATRIC SURGERY  
H/O ALCOHOLIC HEPATITIS 
GOUT 
 
Social History:
___
Family History:
Family history significant for T2DM, HTN, hypothyroidism and 
asthma.
 
Physical Exam:
ADMISSION EXAM:
=======================================
VITALS: 98.2, 115/66, 59, 16, 100%
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM 
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, non-distended, tender to palpation in RLQ and 
LLQ. No CVA tenderness. 
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no cyanosis or edema. 
Tenderness to calf squeeze b/l.   
NEURO: motor function grossly normal  

DISCHARGE EXAM 
=======================================
Vitals: 97.7, 105/65, 60, 18, 100% on RA 
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - Sclerae anicteric, MMM, no palatal or sublingual 
jaundice  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB, no wheezes 
ABDOMEN - +BS, soft, non-distended, tender to palpation in RLQ 
and LLQ. No CVA tenderness. 
EXTREMITIES - WWP, no edema, 2+ peripheral pulses, tenderness to 
calf squeeze bilaterally  
NEURO - awake, A&Ox3
 
Pertinent Results:
ADMISSION LABS
___ 09:32PM BLOOD WBC-7.2 RBC-2.61* Hgb-8.7* Hct-27.7* 
MCV-106*# MCH-33.3*# MCHC-31.4* RDW-16.4* RDWSD-64.2* Plt ___
___ 09:32PM BLOOD Neuts-47.7 ___ Monos-10.7 Eos-2.1 
Baso-0.4 Im ___ AbsNeut-3.44# AbsLymp-2.80 AbsMono-0.77 
AbsEos-0.15 AbsBaso-0.03
___ 10:00PM BLOOD ___ PTT-30.3 ___
___ 09:32PM BLOOD Glucose-105* UreaN-102* Creat-3.9*# 
Na-136 K-4.7 Cl-100 HCO3-18* AnGap-23*
___ 09:32PM BLOOD ALT-79* AST-94* AlkPhos-278* TotBili-0.5
___ 09:32PM BLOOD cTropnT-<0.01
___ 09:32PM BLOOD Albumin-4.0 Calcium-9.4 Phos-3.5 Mg-2.0
___ 09:53PM BLOOD Lactate-3.0*

PERTINENT LABS
___ 08:53AM BLOOD ALT-64* AST-72* LD(LDH)-126 AlkPhos-231* 
TotBili-0.7
___ 08:53AM BLOOD Lipase-39
___ 03:18PM BLOOD TotProt-6.3*
___ 08:53AM BLOOD calTIBC-189* VitB12-527 Ferritn-3080* 
TRF-145*
___ 07:40AM BLOOD Cortsol-9.2
___ 01:03AM BLOOD Lactate-2.6*

DISCHARGE LABS
___ 07:40AM BLOOD WBC-5.1 RBC-2.35* Hgb-7.9* Hct-25.8* 
MCV-110* MCH-33.6* MCHC-30.6* RDW-16.5* RDWSD-67.1* Plt ___
___ 07:40AM BLOOD Glucose-90 UreaN-67* Creat-2.3* Na-141 
K-4.0 Cl-108 HCO3-18* AnGap-19
___ 07:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.6
___ 07:46AM BLOOD Lactate-3.8*

IMAGING
CXR (___):
FINDINGS:    
The lungs are clear.  The cardiomediastinal silhouette is within 
normal 
limits.  No acute osseous abnormalities.  IVC filter is 
partially visualized.   
IMPRESSION:    
No acute cardiopulmonary process. 

CT A/P (___): 
IMPRESSION:   
1. Mildly limited exam without oral or IV contrast.  No 
abnormality identified to explain the patient's left lower 
quadrant abdominal pain. 
2. Post gastric bypass surgery without evidence of obstruction. 

MICROBIOLOGY
___: Urine culture negative, blood cultures pending
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of ETOH abuse, 
hypotension likely ___ autonomic instability, and recent ATN 
requiring temporary hemodialysis who was admitted for elevated 
Cr.
 
#AoCKD, stage 3B: On initial presentation, her Cr was elevated 
to 3.9. Urine electrolytes were notable for FeNa of 2.6, 
concerning for possible ischemic ATN in the setting of her 
hypotension (see below). However, her Cr improved each day s/p 
IVF and was 2.3 at discharge (baseline ~1.8) which was 
reassuring. No known recent nephrotoxic drugs to raise concern 
for toxic ATN, though she may have been taking ibuprofen (she 
couldn't remember which pain reliever she has). She endorsed 
left flank pain, but this was chronic and she had no hematuria 
or dysuria to raise concern for nephrolithiasis or other 
obstruction. She continued to make appropriate volumes of urine 
and CT abdomen showed no hydronephrosis, which was reassuring 
against a post-renal process. 

#Hypotension: On initial presentation, she had systolic blood 
pressures in the ___ in ED, which improved to 117/69 with IV 
fluids. Her systolic blood pressures remained 100s-110s 
throughout admission. The cause of her initial hypotension is 
unclear. The most likely etiology is her known autonomic 
instability v. poor PO intake that the patient endorsed. Her AM 
cortisol was within an indeterminate range. She was afebrile 
with normal heart rates and no leukocytosis, so sepsis was 
unlikely. She denied chest pain, EKG without e/o ischemia or 
arrhythmia, and trop negative, so cardiac cause is unlikely. 
Patient denied history of vomiting/diarrhea to cause 
hypovolemia. She does endorse increased frequency and volume of 
urination, though seems unlikely that this would be significant 
enough to cause hypotension to the ___.     

#Anemia - Patient with stable macrocytic anemia (Hb 7.9-8.7) 
with elevated RDW and low MCHC, consistent with baseline. Her 
ferritin is elevated to 3080, TIBC is low, and transferrin 
saturation is 65%, likely consistent with anemia of chronic 
inflammation. She reports recent weight loss. Notably, she had 
negative HIV test in ___. She may also have bone marrow 
suppression from alcohol use. B12 and iron levels are wnl. In 
the setting of CKD, she may have reduced EPO production. Lastly, 
given anemia and kidney disease, multiple myeloma is on the 
differential. Her total protein is elevated and SPEP is pending. 
Notably, her calcium level is normal and she denies bone pain.  

#ETOH dependence: Reports drinking a pint of brandy daily, with 
last drink 6pm the night before admission. Throughout her stay, 
she denied shakiness or symptoms concerning for withdrawal, with 
stable CIWA of 1 for nausea. 
 
#Transaminitis: AST/ALT were mildly elevated on admission but 
were down-trending. INR was 1.0 and platelets within normal 
limits, indicating good synthetic function of liver. History and 
AST > ALT both argue for EtoH hepatitis. CT scan without 
evidence of ascites.  

TRANSITIONAL ISSUES:
=====================
[ ] Patient should have chemistry panel drawn on ___ and 
faxed to ___'s office (to ensure resolution of ___.
[ ] Patient encouraged to monitor BPs at home.
[ ] Pending labs: SPEP, UPEP.
[ ] Given indeterminate AM cortisol, consider ACTH stimulation 
test if concern for adrenal insufficiency is high.
[ ] Patient should not take HCTZ, lisinopril, or any other 
potentially nephrotoxic medication.
[ ] Of note, lactate elevated on discharge despite normal BP. 
Thought to be secondary to poor clearance in the setting of 
chronic liver disease.
[ ] Ferritin 3000, consistent with anemia of chronic disease. 
Patient reported anorexia and weight loss. Consider further 
work-up as outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Levothyroxine Sodium 62.5 mcg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO BID 
7. Ascorbic Acid ___ mg PO BID 
8. Cyanocobalamin 50 mcg PO DAILY 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. Vitamin E 400 UNIT PO QD 
12. Vitamin D Dose is Unknown  PO DAILY 
13. Pyridoxine Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN pain  
2.  Allopurinol ___ mg PO DAILY  
3.  Ascorbic Acid ___ mg PO BID  
4.  Cyanocobalamin 50 mcg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Levothyroxine Sodium 62.5 mcg PO DAILY  
9.  Multivitamins W/minerals 1 TAB PO BID  
10.  Pyridoxine 100 mg PO DAILY  
11.  Thiamine 100 mg PO DAILY  
12.  Vitamin D 1000 UNIT PO DAILY  
13.  Vitamin E 400 UNIT PO QD  
14.Outpatient Lab Work
Check chem-10 panel on ___ and fax results to patient's PCP 
___ # ___.
ICD-9: 584.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hypotension, Acute on chronic kidney disease, stage 3B 
Secondary: Anemia, alcohol dependence 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because you had low blood 
pressures and your blood tests showed abnormal kidney function. 
We gave you IV fluids, which brought your blood pressures back 
up to the normal range. Your blood tests also showed that your 
kidney function was improving after getting more fluid. 

When you go home, you should try to drink fluids to help your 
blood pressure and kidneys. You should NOT take your lisinopril 
because this can cause low blood pressure and kidney damange. 
You also mentioned that you have taken hydrochlorothiazide in 
the past. You should NOT take this medicine because it can cause 
low blood pressures and can damage your kidneys more. 

Please keep the follow up appointment with your primary care 
physician on ___, see below). You should have repeat 
blood work done on ___ to ensure that your kidney 
function is back to normal.

Please monitor your blood pressure periodically at home. You can 
buy a blood pressure cuff or check your blood pressure at a 
drugstore ___, ___, etc). Please bring a lot of your 
blood pressure to your primary care physician.

It was a pleasure to participate in your care. 

Best,
Your ___ team
 
Followup Instructions:
___